### PR TITLE
[Merged by Bors] - feat: lint declarations which contain a double underscore

### PR DESCRIPTION
**Pull request by mo271**
---

- depends on: #17631

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by adomani** [comment]
!bench

File: Mathlib/Tactic/Linter/Common.lean [hunk 1]
```diff
@@ -0,0 +1,36 @@
+/-
+Copyright (c) 2024 Moritz Firsching All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Damiano Testa, Moritz Firsching
+-/
+
+import Lean.Elab.Command
+open Lean Parser Elab Command Meta
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Common.lean:8]: The style linter complains: you should put the module docstring before any open statements.

File: Mathlib/Tactic/Linter/Style.lean [hunk 2]
```diff
@@ -68,4 +69,47 @@ initialize addLinter setOptionLinter
 
 end Style.setOption
 
+/-- The `check_declID` linter: if it emits a warning, then a declID is considered
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Style.lean:72]: How about this?
The `check_declID` linter emits a warning on declarations whose name is non-standard style.
(Currently, this only includes declarations whose names include a double underscore.)

File: Mathlib/Tactic/Linter/Style.lean [hunk 3]
```diff
@@ -68,4 +69,47 @@ initialize addLinter setOptionLinter
...
+non-standard style.  -/
+register_option linter.style.check_declID : Bool := {
+  defValue := false
+  descr := "enable the `setOption` linter"
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Style.lean:76]: Please update this :-)

File: Mathlib/Tactic/Linter/Style.lean [hunk 4]
```diff
@@ -68,4 +69,47 @@ initialize addLinter setOptionLinter
...
+}
+
+
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Style.lean:79]:
```suggestion

File: Mathlib/Tactic/Linter/Style.lean [hunk 5]
```diff
@@ -68,4 +69,47 @@ initialize addLinter setOptionLinter
...
+namespace Style.checkDeclID
+
+/-- Checks whether a given identifier name contains "__". -/
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Style.lean:82]: This is not an identifier *name* (but syntax corresponding to one), right? Can you tweak the comment to make this clearer?

File: Mathlib/Tactic/Linter/Style.lean [hunk 6]
```diff
@@ -68,4 +69,47 @@ initialize addLinter setOptionLinter
...
+def contains_double_underscore (stx : Syntax) : Bool :=
+  match stx.getSubstring? with
+  | some str => 1 < (str.toString.splitOn "__").length
+  | none => false
+
+/-- The `checkDeclID` linter: if this linter emits a warning, then a declID is considered
+non-standard style. Currently we only check if it contains a double underscore ("__") as a
+substring.
+
+**Why is this bad?** Double underscores in theorem names can be considered non-standard style and
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Style.lean:92]: I like these lines! Can you move this above the the `register_option`, then you can just use `@[inherit_doc] here.

File: Mathlib/Tactic/Linter/Style.lean [hunk 7]
```diff
@@ -68,4 +69,47 @@ initialize addLinter setOptionLinter
...
+probably have been introduced by accident
+**How to fix this?** Use single underscores to separate parts of a name, following standard naming
+conventions.
+-/
+def checkDeclIDLinter: Linter where
+  run := withSetOptionIn fun _stx => do
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Style.lean:98]: Subjective: I would put the `run` on the the same line. I would also name the variable `stx`, and find a different name below. Both of these are matters of taste.

File: Mathlib/Tactic/Linter/Style.lean [hunk 8]
```diff
@@ -68,4 +69,47 @@ initialize addLinter setOptionLinter
...
+    unless Linter.getLinterValue linter.style.check_declID (← getOptions) do
+      return
+    if (← MonadState.get).messages.hasErrors then
+      return
+    for stx in (← getNames _stx) do
+      if (contains_double_underscore stx) then
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Style.lean:104]: I think mathlib style is to not brace if conditions.

File: Mathlib/Tactic/Linter/Style.lean [hunk 9]
```diff
@@ -68,4 +69,47 @@ initialize addLinter setOptionLinter
...
+        Linter.logLint linter.style.check_declID stx
+          m!"The declID '{stx}' contains '__', which does not follow naming conventions. \
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Style.lean:106]: "follow the mathlib naming conventions"

File: Mathlib/Tactic/Linter/Style.lean [hunk 10]
```diff
@@ -68,4 +69,47 @@ initialize addLinter setOptionLinter
...
+              Consider using single underscores instead."
+      else
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Style.lean:108]: You can omit these two lines, right?

**Review by grunweg — COMMENTED** [review]
This is not a full review - but the new linter itself looks straightforward, so I wouldn't anticipate many further comments. I haven't really reviewed the code in `Linter/Common.lean`.

File: Mathlib/Tactic/Linter/Style.lean (hunk 7 above)
Comment (mo271) [reply Mathlib/Tactic/Linter/Style.lean]: ok, both done.

File: Mathlib/Tactic/Linter/Style.lean (hunk 8 above)
Comment (mo271) [reply Mathlib/Tactic/Linter/Style.lean]: removed the braces 
(I have written too much C++ recently...)

File: Mathlib/Tactic/Linter/Style.lean (hunk 9 above)
Comment (mo271) [reply Mathlib/Tactic/Linter/Style.lean]: done

File: Mathlib/Tactic/Linter/Style.lean (hunk 10 above)
Comment (mo271) [reply Mathlib/Tactic/Linter/Style.lean]: yes, removed

**Review by mo271 — COMMENTED** [review]
Thanks for the review!

File: Mathlib/Tactic/Linter/Lint.lean [hunk 11]
```diff
@@ -90,7 +91,7 @@ def getIds : Syntax → Array Syntax
 @[inherit_doc linter.dupNamespace]
 def dupNamespace : Linter where run := withSetOptionIn fun stx ↦ do
   if Linter.getLinterValue linter.dupNamespace (← getOptions) then
-    match getIds stx with
+    match ← getNames stx with
       | #[id] =>
         let ns := (← getScope).currNamespace
         let declName := ns ++ (if id.getKind == ``declId then id[0].getId else id.getId)
```
Comment (adomani) [inline Mathlib/Tactic/Linter/Lint.lean:97]: These lines add the current namespace at the beginning of the output of `getNames`.  However, `getNames` already handles namespaces, so this is no longer needed: it was a "fix" for `getIds`, but now it can be removed.

File: Mathlib/Tactic/Linter/Style.lean [hunk 12]
```diff
@@ -68,4 +69,41 @@ initialize addLinter setOptionLinter
...
 
+/-- The `check_declID` linter emits a warning on declarations whose name is non-standard style.
+(Currently, this only includes declarations whose names include a double underscore.)
+
+**Why is this bad?** Double underscores in theorem names can be considered non-standard style and
+probably have been introduced by accident
+**How to fix this?** Use single underscores to separate parts of a name, following standard naming
+conventions.
+-/
+register_option linter.style.check_declID : Bool := {
```
Comment (adomani) [inline Mathlib/Tactic/Linter/Style.lean:80]: How about calling this
* `linter.style.doubleUnderscore` and leave a rename to a possible extension that checks more;
* `linter.style.nameCheck`, so we avoid the "technical" `declId` and make this more memorable?

File: test/LintStyle.lean [hunk 13]
```diff
@@ -134,4 +134,13 @@ lemma foo' : True := trivial
...
 -- TODO: add terms for the term form
 
+/--
+warning: The declID 'double__underscore' contains '__', which does not follow naming conventions.
+Consider using single underscores instead.
+note: this linter can be disabled with `set_option linter.style.check_declID false`
+-/
+#guard_msgs in
+set_option linter.style.check_declID true in
+theorem double__underscore : True := trivial
```
Comment (adomani) [inline test/LintStyle.lean:144]: How about we add a check that also verifies that the linter checks the `to_additive` name?  E.g.
* a duplicated namespace arising from additivizing (such as `@[to_additive] theorem add.mul`) and
* a double warning arising from `namespace XX @[to_additive] theorem mul__more`.

File: Mathlib/Tactic/Linter/Common.lean [hunk 14]
```diff
@@ -0,0 +1,33 @@
...
+This file contains functions that are used by some linters.
+-/
+open Lean Parser Elab Command Meta
+namespace Mathlib.Linter
+
+/--
+If `stx` is a declaration, then `getNames stx` returns the array of identifiers
+for the name of the declarations whose syntax range is contained in `stx`.
+
+If `stx` is not a declaration, then `getNames stx` returns `#[]`.
```
Comment (adomani) [inline Mathlib/Tactic/Linter/Common.lean:19]:
```suggestion
```
Looking back at this, I am not so sure that this line is necessary: I think that a non-declaration that happens to add a declaration to the environment would actually produce a name.  Besides, if there are no names to be extracted, clearly the output is going to be `#[]`, so it is probably clearer to remove this last sentence.

File: Mathlib/Tactic/Linter/Lint.lean (hunk 11 above)
Comment (mo271) [reply Mathlib/Tactic/Linter/Lint.lean]: make sense, done!

File: Mathlib/Tactic/Linter/Style.lean (hunk 12 above)
Comment (mo271) [reply Mathlib/Tactic/Linter/Style.lean]: renamed in that spirit 
Now we have 
- Linter.linter.style.nameCheck  
- Linter.Style.nameCheck.doubleUnderscore

**Comment by adomani** [comment]
!bench

File: Mathlib/Tactic/Linter/Lint.lean [hunk 15]
```diff
@@ -93,8 +93,7 @@ def dupNamespace : Linter where run := withSetOptionIn fun stx ↦ do
   if Linter.getLinterValue linter.dupNamespace (← getOptions) then
     match ← getNames stx with
       | #[id] =>
```
Comment (adomani) [inline Mathlib/Tactic/Linter/Lint.lean:95]: Oh, this is now only linting commands that produce a *single* declaration!  I think that, with the new behaviour of `getNames`, we actually want to run this check on all the entries in `getNames stx`.

File: Mathlib/Tactic/Linter/Common.lean (hunk 14 above)
Comment (mo271) [reply Mathlib/Tactic/Linter/Common.lean]: I removed the line

File: Mathlib/Tactic/Linter/Lint.lean (hunk 15 above)
Comment (mo271) [reply Mathlib/Tactic/Linter/Lint.lean]: I tried this now, but I don't think it is working as intended yet...
investigating

File: Mathlib/Tactic/Linter/Lint.lean [hunk 16]
```diff
@@ -90,16 +91,14 @@ def getIds : Syntax → Array Syntax
...
-        let declName := ns ++ (if id.getKind == ``declId then id[0].getId else id.getId)
-        let nm := declName.components
-        let some (dup, _) := nm.zip (nm.tailD []) |>.find? fun (x, y) ↦ x == y
-          | return
-        Linter.logLint linter.dupNamespace id
-          m!"The namespace '{dup}' is duplicated in the declaration '{declName}'"
-      | _ => return
+    let ids ← getNames stx
+    for id in ids do
+      let declName := if id.getKind == ``declId then id[0].getId else id.getId
```
Comment (adomani) [inline Mathlib/Tactic/Linter/Lint.lean:96]:
```suggestion
      let declName := id.getId
```
since I think that `getNames` now always returns an identifier and never a `declId`.  At this point, it may make sense to inline this in `nm` and use `id` directly in `logLint`, since I think that it will print the same as `id.getId`.

File: test/LintStyle.lean (hunk 13 above)
Comment (mo271) [reply test/LintStyle.lean:144]: That makes sense. Will add when it works again.
Also the test here should now catch the add.add, right? https://github.com/leanprover-community/mathlib4/blob/3ae6376f67d90e32a4dfbee23157ac3ac4b5508c/test/Lint.lean#L28

**Comment by adomani** [comment]
Sorry for sending the code suggestions in such a fragmented fashion: I can only review in small bits and I can't really check the code on my computer.

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 17]
```diff
@@ -236,12 +236,15 @@ def toEmbeddingOfEqTop {f : M ≃ₚ[L] N} (h : f.dom = ⊤) : M ↪[L] N :=
...
 
 @[simp]
-theorem toEmbeddingOfEqTop__apply {f : M ≃ₚ[L] N} (h : f.dom = ⊤) (m : M) :
+theorem toEmbeddingOfEqTop_apply {f : M ≃ₚ[L] N} (h : f.dom = ⊤) (m : M) :
     toEmbeddingOfEqTop h m = f.toEquiv ⟨m, h.symm ▸ mem_top m⟩ := by
   rcases f with ⟨dom, cod, g⟩
   cases h
   rfl
 
+set_option linter.style.nameCheck false
```
Comment (grunweg) [inline Mathlib/ModelTheory/PartialEquiv.lean:245]: Caution: the current version disables the linter for the remainder of the file.
```suggestion
set_option linter.style.nameCheck false in

File: Mathlib/Tactic/Linter/Common.lean [hunk 18]
```diff
@@ -0,0 +1,31 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Damiano Testa, Moritz Firsching
+-/
+
+import Lean.Elab.Command
+
+/-!
+This file contains functions that are used by some linters.
+-/
+open Lean Parser Elab Command Meta
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Common.lean:12]:
```suggestion
This file contains functions that are used by multiple linters.
-/

open Lean Parser Elab Command Meta

File: Mathlib/Tactic/Linter/Lint.lean [hunk 19]
```diff
@@ -90,16 +91,14 @@ def getIds : Syntax → Array Syntax
...
-        let ns := (← getScope).currNamespace
-        let declName := ns ++ (if id.getKind == ``declId then id[0].getId else id.getId)
-        let nm := declName.components
-        let some (dup, _) := nm.zip (nm.tailD []) |>.find? fun (x, y) ↦ x == y
-          | return
-        Linter.logLint linter.dupNamespace id
-          m!"The namespace '{dup}' is duplicated in the declaration '{declName}'"
-      | _ => return
+    let ids ← getNames stx
+    for id in ids do
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Lint.lean:95]: You could compress the let with the loop. Optional!

File: Mathlib/Tactic/Linter/Style.lean [hunk 20]
```diff
@@ -68,4 +69,41 @@ initialize addLinter setOptionLinter
 
 end Style.setOption
 
+/-- The `nameCheck` linter emits a warning on declarations whose name is non-standard style.
+(Currently, this only includes declarations whose names include a double underscore.)
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Style.lean:73]:
```suggestion
(Currently, this only includes declarations whose name includes a double underscore.)
```
I think

File: Mathlib/Tactic/Linter/Style.lean [hunk 21]
```diff
@@ -68,4 +69,41 @@ initialize addLinter setOptionLinter
...
+
+**Why is this bad?** Double underscores in theorem names can be considered non-standard style and
+probably have been introduced by accident
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Style.lean:76]:
```suggestion
probably have been introduced by accident.

File: Mathlib/Tactic/Linter/Lint.lean (hunk 15 above)
Comment (adomani) [reply Mathlib/Tactic/Linter/Lint.lean]: Glancing at the code, it seems correct and the fact that CI does not appear to be flagging any duplicated namespace seems reasonable.  What makes you suspicious?

File: Mathlib/Tactic/Linter/Style.lean [hunk 22]
```diff
@@ -68,4 +69,41 @@ initialize addLinter setOptionLinter
...
+@[inherit_doc linter.style.nameCheck]
+def doubleUnderscore: Linter where run := withSetOptionIn fun stx => do
+    unless Linter.getLinterValue linter.style.nameCheck (← getOptions) do
+      return
+    if (← MonadState.get).messages.hasErrors then
+      return
+    for sytax in (← getNames stx) do
+      if contains_double_underscore sytax then
+        Linter.logLint linter.style.nameCheck sytax
+          m!"The declID '{sytax}' contains '__', which does not follow the mathlib naming \
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/Style.lean:102]: Can you replace `declID` by `declaration`, please? While we're avoiding technical jargon, let's be consistent.

**Review by grunweg — COMMENTED** [review]
Thanks; I like this version much better. (Thanks also to Damiano, I agree with all your comments!) I found another couple of small opportunities for improvement.

As perhaps my biggest comment: this changes the dupNamespace linter, to also catch additivised (and other) declarations. Can you extend the PR description to mention this? (This PR could even be split in two, one for the refactoring and one for the new linter. I don't think that is necessary.)
Oh, and while you're at it, please also explain what this linter does in the description I just saw that is also missing :-)

File: Mathlib/Tactic/Linter/Style.lean (hunk 22 above)
Comment (adomani) [reply Mathlib/Tactic/Linter/Style.lean:102]: Why is the variable called `sytax` rather than `syntax` or `name`?  `sytax` looks so much like a typo to me!  :smile:

Comment (mo271) [reply Mathlib/Tactic/Linter/Style.lean:102]: it is, will fix

File: Mathlib/Tactic/Linter/Lint.lean (hunk 19 above)
Comment (mo271) [reply Mathlib/Tactic/Linter/Lint.lean]: compressed!

File: Mathlib/Tactic/Linter/Common.lean [hunk 23]
```diff
@@ -0,0 +1,32 @@
+/-
+Copyright (c) 2024 Moritz Firsching All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Damiano Testa, Moritz Firsching
+-/
+
+import Lean.Elab.Command
```
Comment (adomani) [inline Mathlib/Tactic/Linter/Common.lean:7]:
```suggestion
import Lean.DeclarationRange
```
not too important, since it is hard not to import `Lean.Elab.Command`, but this file seems to only need this earlier import.

**Review by mo271 — COMMENTED** [review]
I plan to split this into two pull requests:
one changing the duplicate namespace linter and one adding the new linter for easier reviewing

File: Mathlib/Tactic/Linter/Style.lean (hunk 22 above)
Comment (mo271) [reply Mathlib/Tactic/Linter/Style.lean]: done (both the typo and not mentioning `declID`

**Comment by adomani** [comment]
I like the idea of splitting: while the code addition is not big, it has a somewhat large effect on the `dupNamespace` linter, so investigating those changes and increasing the tests will be good.

The other PR with the `nameCheck` can then also develop further and maybe someone has some other style suggestions to look out for.  If the `docPrime` linter will survive, that would also be a good one to merge into the `nameCheck` linter.

**Comment by mo271** [comment]
part one, refactor of the `dupNamespace` linter is here now: #17631

File: Mathlib/Tactic/Linter/Lint.lean (hunk 15 above)
Comment (mo271) [reply Mathlib/Tactic/Linter/Lint.lean]: the `to_additive` test is not triggering like it should and also 
https://github.com/leanprover-community/mathlib4/blob/3ae6376f67d90e32a4dfbee23157ac3ac4b5508c/test/Lint.lean#L52-L58
is now broken, i.e. here the new `dupNamespace` does not trigger anymore, while the old one did.

Comment (mo271) [reply Mathlib/Tactic/Linter/Lint.lean]: also there are some new things detected:
```
⚠ [2956/5186] Built Mathlib.Algebra.Algebra.Spectrum
warning: ././././Mathlib/Algebra/Algebra/Spectrum.lean:1:0: The namespace 'Algebra' is duplicated in the declaration 'AlgHom.term↑ₐ._@.Mathlib.Algebra.Algebra.Spectrum._hyg.8927'
note: this linter can be disabled with `set_option linter.dupNamespace false`
```

**Comment by mo271** [comment]
@adomani  this now works in principle, but he new `getNamesFrom` extracts leads to lots of declarations, which actually have and underscore, see the `build mathlib` step here:
https://github.com/leanprover-community/mathlib4/actions/runs/11398241232/job/31714947231?pr=17580

How should these false postives be handled best?

**Comment by adomani** [comment]
The duplicated namespace linter filters out declarations that have macroscopes, via `hasMacroScopes` or something similar.  I can look into this, but in a few hours.

**Comment by mo271** [comment]
adding 
```
      if declName.hasMacroScopes then continue

```
didn't help

**Comment by mo271** [comment]
> For 2., feel free to look at the output and think of what you would think is a good way forward. Excluding _all_ autogenerated names is a possibility, but I am not sure that it is a good idea, since some commands autogenerate declarations that should be checked (e.g. `to_additive`), while most of the failures here seem to be with `simps`.

perhaps it would be easiest to start with excluding all autogenerated declarations. How to do that, @adomani?

Meanwhile there are some some new declations with double underscored have been introduced :
https://github.com/leanprover-community/mathlib4/blob/698148763dd29cf98dd2c56b8a44ac8e825461ae/Mathlib/CategoryTheory/Monoidal/Functor.lean#L1015
This came from the refactor in #17904. Was it intentional that the name of this lemma contains a doulbe underscore, @joelriou ?

**Comment by adomani** [comment]
Moritz, I pushed a modification of the code that simply scans the syntax for a visible declaration id and uses just that in the double-underscore check.  If this change is going to be the way the check is supposed to be done, then the code should be polished and we should remove the bits that were there in order to fetch all the auto-generated names.

**Comment by mo271** [comment]
Thanks @adomani, I think this is good enough for a now! 
I cleaned up the exceptions in the, should the anything else be removed, or is looking at the aliases still useful?

Looking around it seems that `unitIso_hom_app_tensor_comp_inverse_map_δ_functor__`
is really not so useful to have, since a few lines above we ave the verbatim the same lemma without the underscore:

https://github.com/leanprover-community/mathlib4/blob/698148763dd29cf98dd2c56b8a44ac8e825461ae/Mathlib/CategoryTheory/Monoidal/Functor.lean#L998


When I remove it, all tests pass.
So it seems like an double underscore linter would have been useful in that case...

**Comment by mo271** [comment]
!bench

**Comment by adomani** [comment]
Inlined the double underscore check, since it was simple enough: the `if ... then ... else` was preventing examining and `anonymous` that still does not have a double underscore, so we could use directly `Lean.Name.toString`.

**Comment by adomani** [comment]
As for the aliases, I would leave them in: those are all "real" names, unlike many of the autogenerated ones.

File: Mathlib/CategoryTheory/Monoidal/Functor.lean [hunk 24]
```diff
@@ -1032,6 +1032,11 @@ lemma functor_map_μ_inverse_comp_counitIso_hom_app_tensor (X Y : D) :
       δ e.functor _ _ ≫ (e.counitIso.hom.app X ⊗ e.counitIso.hom.app Y) :=
   e.toAdjunction.map_μ_comp_counit_app_tensor X Y
 
+set_option linter.style.nameCheck false in
+@[deprecated (since := "2024-11-30")]
+alias unitIso_hom_app_tensor_comp_inverse_map_δ_functor__ :=
+unitIso_hom_app_tensor_comp_inverse_map_δ_functor
+
```
Comment (mo271) [inline Mathlib/CategoryTheory/Monoidal/Functor.lean:1039]:
```suggestion
```

Comment (mo271) [reply Mathlib/CategoryTheory/Monoidal/Functor.lean:1039]: `unitIso_hom_app_tensor_comp_inverse_map_δ_functor__` was deleted in #17956 without leaving a deprecation note.

File: Mathlib/CategoryTheory/Monoidal/Functor.lean [hunk 25]
```diff
@@ -1097,7 +1097,6 @@ variable (C D)
 structure in `CategoryTheory.Monoidal.NaturalTransformation`. -/
 structure LaxMonoidalFunctor extends C ⥤ D where
   laxMonoidal : toFunctor.LaxMonoidal := by infer_instance
```
Comment (mo271) [inline Mathlib/CategoryTheory/Monoidal/Functor.lean:1099]:
```suggestion
  laxMonoidal : toFunctor.LaxMonoidal := by infer_instance

```

**Comment by mo271** [comment]
This is now ready for review

**Comment by adomani** [comment]
@mo271 I think that having a linter that performs some validation on the names of declarations is a good idea.  The specific case of linting double underscores was unlucky, since a lot of internal declarations use mechanism that automatically generate double underscores, limiting the usefulness of this specific linter.

I suggest that we close this PR, but leave open the possibility of modifying the linter to address other (easier to enforce!) checks on the names of declarations.

Does that sound reasonable?

**Comment by mo271** [comment]
Sound good to me. 
Although I don't quite understand what the problem with the current of this proposed linter is: 
Do you think it will get too many false positives? 
I think already as it is written now, it will catch if someone inserts a double underscore accidently, which can quickly happen during refactor and like it has happened 
with `unitIso_hom_app_tensor_comp_inverse_map_δ_functor__` and `toEmbeddingOfEqTop__apply`  That was the intention of the fix, and it works. It might not be perfect in two ways:
 (1) false positives: the linter triggers for names which are actually legit
 (2) false negatives: the linter doesn't trigger for a wrong name
 I would be mainly worried about (1), because (2) is what is happening when we have no linter for this at all. If we are fairly confident that (1) won't happen, then it might be a good idea to merge it, or not?
 
 In any case, feel free to close it. I will then make the fix for `toEmbeddingOfEqTop__apply` in another pull request. (The other case `unitIso_hom_app_tensor_comp_inverse_map_δ_functor__`  already has been fixed). And if I remember can will this linter manually once in a while catching newly added names containing "__".

**Comment by mo271** [comment]
zulip: https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2317580.20lint.20declarations.20which.20contain.20a.20double.20underscore

**Comment by kbuzzard** [comment]
According to the Zulip discussion, we're happy with this so let's do it!

bors merge
